US04409217
4-Nitrobenzyl 7-amino-3-methoxy-3-cephem-4-carboxylate hydrochloride (4.02 g) and 2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer, 3.62 g) were treated in a similar manner to to that of Example 1 to give 4-nitrobenzyl 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylate (syn isomer, 6.8 g).

reactant | 4-Nitrobenzyl 7-amino-3-methoxy-3-cephem-4-carboxylate hydrochloride | 4.02 g | Cl.NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O
reactant | 2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetic acid | 3.62 g | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC=O | C12H15N3O6S
product | 4-nitrobenzyl 7-[2-(tert-butoxycarbonylmethoxyimino)-2-(2-formamidothiazol-4-yl)acetamido]-3-methoxy-3-cephem-4-carboxylate | 6.8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)OC)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)C=1N=C(SC1)NC=O | C27H28N6O11S2
